US05350761
Similarly to procedure described in example 1, 2-(3-phenylpropyl)-6-[2-(N-hydroxyamino)-ethoxy]-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide is reacted with trimethylsilyl isocyanate to yield 2-(3-phenylpropyl)-6-[2-(N-aminocarbonyl-N-hydroxyamino)-ethoxy]-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide, m.p. 134°-135°.

reactant | 2-(3-phenylpropyl)-6-[2-(N-hydroxyamino)-ethoxy]-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | C1(=CC=CC=C1)CCCN1S(C2=C(CC1)C=C(C=C2)OCCNO)(=O)=O | C19H24N2O4S
reactant | trimethylsilyl isocyanate | C[Si](C)(C)N=C=O | C4H9NOSi
product | 2-(3-phenylpropyl)-6-[2-(N-aminocarbonyl-N-hydroxyamino)-ethoxy]-3,4-dihydro-2H-1,2-benzothiazine-1,1-dioxide | C1(=CC=CC=C1)CCCN1S(C2=C(CC1)C=C(C=C2)OCCN(O)C(=O)N)(=O)=O | C20H25N3O5S
